US07943669B2
Step A: {4-[3-(4-Fluoro-benzyloxy)-5-(3-morpholin-4-yl-prop-1ynyl)-benzylsulfanyl]-2-methyl-phenoxy}-acetic Acid Ethyl Ester
{4-[3-Hydroxy-5-(3-morpholin-4-yl-prop-1-ynyl)-benzylsulfanyl]-2-methylphenoxy}-acetic acid ethyl ester (250 mg; 0.55 mmol), 1-fluoro-4-methoxymethyl-benzene (103.8 mg; 0.82 mmol), tributylphosphine (0.33 mg; 1.65 mmol) and 1,1′-(azodicarbonyl)dipiperidine (0.414 g; 1.65 mmol) were dissolved in THF (15 mL) in a dried reaction flask under an atmosphere of nitrogen. The reaction mixture was stirred for 16 h and purified by prep. HPLC (method A). Yield: 160 mg. HPLC-MS: m/z: 564.1 (M+H); Rt: 1.99 min.

reactant | {4-[3-Hydroxy-5-(3-morpholin-4-yl-prop-1-ynyl)-benzylsulfanyl]-2-methylphenoxy}-acetic acid ethyl ester | 0.55 mmol, 250 mg | C(C)OC(COC1=C(C=C(C=C1)SCC1=CC(=CC(=C1)C#CCN1CCOCC1)O)C)=O | C25H29NO5S
reactant | 1-fluoro-4-methoxymethyl-benzene | 0.82 mmol, 103.8 mg | FC1=CC=C(C=C1)COC | C8H9FO
reactant | tributylphosphine | 1.65 mmol, 0.33 mg | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 1.65 mmol, 0.414 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | {4-[3-(4-Fluoro-benzyloxy)-5-(3-morpholin-4-yl-prop-1ynyl)-benzylsulfanyl]-2-methyl-phenoxy}-acetic Acid Ethyl Ester | C(C)OC(COC1=C(C=C(C=C1)SCC1=CC(=CC(=C1)C#CCN1CCOCC1)OCC1=CC=C(C=C1)F)C)=O | C32H34FNO5S
